Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___
 
Chief Complaint:
Clots in stool

 
Major Surgical or Invasive Procedure:
Colonoscopy ___

 
History of Present Illness:
 Ms. ___ is a ___ female with past medical history
notable for afib on coumadin, Aortic valve replacement, breast
cancer s/p mastectomy and renal cancer s/p partial nephrectomy
who presents with clots in stool after colonoscopy with
polypectomy on day prior to admission

___ has a history of ileocecal valve adenoma which was
removed at ___ in ___. She represented as expected for every 
___
years for another colonoscopy and polypectomies, which was done
on ___.
Patient reports evening after getting home, had a jellow and
later that night had 6 episodes of rectal bleeding with clot. 
She
had left sided abd pain which resolved with BM. She was asked to
come to the ED given bloody bowel movements

She reports being lightheaded while bending over to clean up the
floor (as she missed a couple of runs to the bathroom) and in
this setting, fell over and striked her face with no LOC. +
lightheadedness, + fall with face strike with no LOC. This 
caused
a swelling or bruising around left eye. She hasn't been on
warfarin in >1 week

In the ED
- Initial vitals: 97.6 HR 85 BP 110/64 RR 16 O2 sat 100% on RA
- Exam notable for bruise around left eye
- Labs
+ CBC: WBC 10.3 Hgb 9.0, Plt 148
+ Chem 10: Na 139 K 4.2 Creat 0.8
- Imaging: None (CT head wasn't done given INR of 1.3) and no
symptoms
- Patient was given metoprolol tartrate
- GI/ERCP was consulted and recommend repeat colonoscopy after
admission

On transfer, vitals were 97 129/78 16 99% on RA

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
- Atrial fibrillation
- Aortic valve replacement ___ (due to aortic regurgitation)
- R breast cancer (s/p mastectomy in ___
- Papillary renal cancer (s/p partial nephrectomy ___ 
- HLD
- Appendectomy in ___
- Osteoarthritis

 
Social History:
___
Family History:
Brother died of oesophageal cancer, No other known history of 
maligancy
 
Physical Exam:
Admission physical exam
___ 1305 Temp: 98.7 PO BP: 126/83 HR: 55 RR: 16 O2 sat: 
100%
O2 delivery: RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round, bruise around left side 
of
eye
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout

Discharge physical exam
___ 0659 Temp: 97.5 PO BP: 106/61 HR: 88 RR: 16 O2 sat: 98%
O2 delivery: RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round, bruise around left side 
of
eye
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: Right breast s/p mastectomy with silicon implantation.
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout

 
Pertinent Results:
Admission labs
================
___ 02:45AM BLOOD WBC-13.2* RBC-3.13* Hgb-10.0* Hct-30.2* 
MCV-97 MCH-31.9 MCHC-33.1 RDW-13.1 RDWSD-46.3 Plt ___
___ 02:45AM BLOOD Glucose-107* UreaN-9 Creat-0.8 Na-139 
K-4.2 Cl-106 HCO3-20* AnGap-13
___ 07:00AM BLOOD Calcium-7.9* Phos-2.3* Mg-1.5*

Discharge labs
================
___ 10:20AM BLOOD WBC-8.6 RBC-2.83* Hgb-9.0* Hct-27.0* 
MCV-95 MCH-31.8 MCHC-33.3 RDW-13.3 RDWSD-46.2 Plt ___
___ 07:00AM BLOOD ___ PTT-26.6 ___
___ 07:00AM BLOOD Glucose-90 UreaN-4* Creat-0.5 Na-142 
K-3.8 Cl-110* HCO3-21* AnGap-11
 
Brief Hospital Course:
Ms. ___ is a ___ female with past medical history 
notable for afib on coumadin, Aortic valve replacement, breast 
cancer s/p mastectomy and renal cancer s/p partial nephrectomy 
who presents with clots in stool after colonoscopy with 
polypectomy on day prior to admission

# Anemia
# BRBPR: Patient presented with complaints of bloody bowel 
movements with clots after recent colonoscopy with polypectomy. 
Hgb was 12.3 on ___ and down trended to as low as 7.6. 
Patient received no units of blood but discharge Hgb was 9.0. 
Etiology was likely post-procedural bleeding which has been 
solved with colonoscopy and endoclips. She will need a repeat 
colonoscopy in 3 months with Dr ___.
Hold Coumadin for the next 8 days (consider restart after CBC 
recheck and on ___

# Afib
# Aortic valve replacement (due to aortic regurgitation): 
Overall has been stable. Will maintain on tele. Metoprolol held 
in the setting of likely GI bleed. Coumadin being held for ~ 8 
days after discharge. Aspirin restarted.

# Fall: of note patient also had a fall at home in the setting 
of cleaning up from being unable to reach bathroom on time and 
bending over. Though not anticoagulated, she had a pretty bad 
bruise on the left side of her eye. CT head was reassuring.

CHRONIC/STABLE PROBLEMS:
# R breast cancer s/p mastectomy: stable

# Papillary renal cancer s/p partial nephrectomy: stable and
creatinine is stable

TRANSITIONAL ISSUES
=======================
- Please re-check CBC within 1 week of discharge
- Holding Coumadin. Consider re-initiation of Coumadin ~ 8 days 
after discharge on ___
- Will need repeat colonoscopy with Dr ___ in ~ 3 months

>30 minutes spent on discharge planning and coordination
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Warfarin 4 mg PO DAILY16 
2. Metoprolol Succinate XL 25 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Simvastatin 10 mg PO QPM 
5. Fish Oil (Omega 3) 1000 mg PO BID 
6. Vitamin D 800 UNIT PO DAILY 
7. Alendronate Sodium 70 mg PO QFRI 

 
Discharge Medications:
1.  Alendronate Sodium 70 mg PO QFRI  
2.  Aspirin 81 mg PO DAILY  
3.  Fish Oil (Omega 3) 1000 mg PO BID  
4.  Metoprolol Succinate XL 25 mg PO DAILY  
5.  Simvastatin 10 mg PO QPM  
6.  Vitamin D 800 UNIT PO DAILY  
7. HELD- Warfarin 4 mg PO DAILY16  This medication was held. Do 
not restart Warfarin until ___
8.Outpatient Lab Work
GI bleed ICD 10 K92.2
CBC check (Hgb and Hct) (Last hgb ___ was 9.0). Fax to 
Name: ___. Fax: ___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Anemia
Atrial fibrillation
Aortic valve replacement due to aortic regurgitation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were admitted due to concern for GI bleed. You had a 
colonoscopy and an endoclip was placed at the site of bleeding. 
Your blood count was stable afterwards and we were reassured you 
were not bleeding (your discharge Hemoglobin was 9.0)

Please follow up with your doctors ___ 1 week after discharge 
to check your blood count and ensure you keep being stable.

Please DO NOT TAKE COUMADIN for the next 8 days. OK to restart 
after you see your doctor and blood count is rechecked.

You will need repeat colonoscopy with Dr ___ in ~ 3 months. 
Please ensure you do not forget this.

It was a pleasure being part of your care.

Your ___ team

 
Followup Instructions:
___